US07211668B2
N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonyl chloride as per the procedure of example 1. 1H NMR (500 MHz; DMSO-d6) δ 8.40 (d, 1H), 8.05 (dd, 1H), 8.02 (d, 1H) 4.07 (q, 2H), 3.30 (s, 2H), 3.19 (t, 2H), 2.67 (t, 2H), 1.18 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonyl chloride | ClC1=CC(=C(C=C1)C1=NN=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C8H3Cl2N3O4S2
product | N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H16ClN5O6S2
